US05665754
To a solution of (E)-ethyl-3-(3-cyclopentoxy-4-methoxyphenyl)-2-methyl-prop-2-en-oate (970 mg, 3.2 mmol) in 3 mL of 1,4-dioxane was added a solution of LiOH·H2O (156 mg, 3.8 mmol) in 3 mL of H2O. The resulting mixture was heated at 80° C. for 2 hr and 45° C. for 16 hr. The resulting solution was diluted with ether and poured into 1M H3PO4. The aqueous layer was extracted with ethyl acetate (2×), washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure. Silica gel chromatography (95:5, CH2Cl:methanol) provided (E)-3-(3-cyclopentoxy-4-methoxyphenyl)-2-methyl-prop-2-enoic acid as a colorless solid (700 mg, 79%). Anal. Calcd for C16H20O4 : C, 69.55; H, 7.29. Found: C, 69.39; H, 7.29.

reactant | (E)-ethyl-3-(3-cyclopentoxy-4-methoxyphenyl)-2-methyl-prop-2-en-oate | 3.2 mmol, 970 mg | C(C)OC(\C(=C\C1=CC(=C(C=C1)OC)OC1CCCC1)\C)=O | C18H24O4
reactant | LiOH·H2O | 3.8 mmol, 156 mg | O[Li].O
reactant | H3PO4 | 1M | OP(=O)(O)O | H3O4P
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | (E)-3-(3-cyclopentoxy-4-methoxyphenyl)-2-methyl-prop-2-enoic acid | 700 mg, 79% | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C(/C(=O)O)\C | C16H20O4
